US04427589
9-Chloro-4a,11b-dihydro-3-methyl-7-(2-fluorophenyl)-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one
In one portion 14.0 mL of a 4.34 M methanol solution of sodium methoxide was added to a solution of 14.0 g (37.7 mmol) of a mixture of 8-chloro-1-(2-fluorophenyl)-5H-2-benzazepine-5-carboxylic acid butyl ester and 8-chloro-1-(2-fluorophenyl)-3H-2-benzazepine-5-carboxylic acid butyl ester and 7.0 g (74 mmol) of acetamidine hydrochloride in 250 mL of ethanol. The mixture was refluxed for 17 hr, cooled and poured into 1 L of water. The resulting precipitate was collected by filtration and washed with ether to yield an off-white solid, mp 150°-165°.

reactant | sodium methoxide | C[O-].[Na+]
reactant | 8-chloro-1-(2-fluorophenyl)-5H-2-benzazepine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C1C=CN=C(C2=C1C=CC(=C2)Cl)C2=C(C=CC=C2)F | C21H19ClFNO2
reactant | 8-chloro-1-(2-fluorophenyl)-3H-2-benzazepine-5-carboxylic acid butyl ester | C(CCC)OC(=O)C1=CCN=C(C2=C1C=CC(=C2)Cl)C2=C(C=CC=C2)F | C21H19ClFNO2
reactant | acetamidine hydrochloride | 74 mmol, 7.0 g | Cl.C(C)(=N)N
solvent | ethanol | 250 mL | C(C)O | C2H6O
solvent | water | 1 L | O | H2O
solvent | methanol | 4.34 M | CO | CH4O
product | 9-Chloro-4a,11b-dihydro-3-methyl-7-(2-fluorophenyl)-5H-pyrimido[4,5-d][2]benzazepin-1(2H)-one | ClC1=CC2=C(C3C(CN=C2C2=C(C=CC=C2)F)N=C(NC3=O)C)C=C1 | C19H15ClFN3O
